US08106091B2
Stage 2—N-(tert-Butoxycarbonyl)-O-[tert-butyl(dimethyl)silyl]-D-homoserine
The suspension of O-[tert-Butyl(dimethyl)silyl]-D-homoserine (1.8 g, 7.7 mmol) in DCM (100 ml) at 0° C. was treated with triethylamine (2.15 ml, 15.4 mmol, 2 eq) and di-tert-butyl dicarbonate (1.77 g, 8.1 mmol, 1.05 eq). The reaction mixture was stirred at room temperature for 16 hours for complete reaction. The DCM was removed under reduced pressure and the mixture was treated with ethyl acetate/brine. The ethyl acetate layer was dried over magnesium sulphate and evaporated under reduced pressure. The crude product was taken forward without further purification (2.53 g, 99%).

reactant | O-[tert-Butyl(dimethyl)silyl]-D-homoserine | 7.7 mmol, 1.8 g | [Si](C)(C)(C(C)(C)C)OCC[C@@H](N)C(=O)O | C10H23NO3Si
reactant | triethylamine | 15.4 mmol, 2.15 ml, 2 eq | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.1 mmol, 1.77 g, 1.05 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2—N-(tert-Butoxycarbonyl)-O-[tert-butyl(dimethyl)silyl]-D-homoserine | C(C)(C)(C)OC(=O)N[C@H](CCO[Si](C)(C)C(C)(C)C)C(=O)O | C15H31NO5Si
